US06201087B1
5 g (8.1 mmol) of a stock solution of poly (2-hydroxyethyl methacrylate) (21 wt. % in DMA) were diluted with 15 ml of dimethylacetamide (DMA). 2.11 g (8.1 mmol) of triphenylphosphine and 1.31 g (8.1 mmol) of 7-hydroxy-coumarin were dissolved in the reaction batch while stirring at room temper- ature. The solution was cooled to OOC. 1.25 ml (8.1 mmol) of diethyl azodicarboxylate (DEAD) were added dropwise within 10 minutes. The reaction batch was left at 0° C. for a further 15 minutes and then, after removal of the ice bath, stirred at room temperature for 15 hours prior to the addition of an equimolar amount of triphenylphosphine and of 7-hydroxy-coumarin. Subsequently, a further 1.25 ml of DEAD were added dropwise within 10 minutes. The reaction mixture was stirred at room temperature for a further 24 hours then added dropwise to about 900 ml of diethyl ether while stirring vigorously. The precipitated polymer was filtered off and dried at 60° C. in a water-jet vacuum. For purification, the residue was dissolved in 20 ml of dichloromethane and again precipitated in diethyl ether. This procedure was repeated until monomer was no longer detectable by thin-layer chromatography. Filtration and drying at 60° C. in a vacuum gave 1.77 g of poly [1-methyl-1-[2-(2-oxo-2H-1-benzopyran-7-yloxy)-ethoxycarbonyl]-ethylene] as a white powder with a glass stage of Tg=115° C. (Δcp=0.35 J/gK). λmax. (in CH2Cl2)=317.8 nm (ε=10830 l/mol cm).

reactant | triphenylphosphine | 8.1 mmol, 2.11 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 7-hydroxy-coumarin | 8.1 mmol, 1.31 g | OC1=CC=C2C=CC(OC2=C1)=O | C9H6O3
reactant | diethyl azodicarboxylate | 8.1 mmol, 1.25 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | dimethylacetamide | 15 ml | CC(=O)N(C)C | C4H9NO
product | 1-methyl-1-[2-(2-oxo-2H-1-benzopyran-7-yloxy)-ethoxycarbonyl]-ethylene | CC(=C)C(=O)OCCOC1=CC2=C(C=CC(O2)=O)C=C1 | C15H14O5
